US09102621B2
3-Chloro-2-(1,1,1,3,3,3-hexafluoropropan-2-yloxy)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine
3-Chloro-2-(1,1,1,3,3,3-hexafluoropropan-2-yloxy)-5-iodopyridine (Preparation 54, 300 mg, 0.74 mmol), 1,1′-Bis(diphenylphosphino)ferrocene]dichloropalladium(II) (27 mg, 0.07 mmol), bis(pinacolato)diboron (225 mg, 0.89 mmol), and potassium acetate (218 mg, 2.22 mmol) were suspended in dioxane (10 mL) and degassed for 30 minutes with nitrogen then heated for 18 hours at 90° C. The reaction mixture was recharged with 1,1′-Bis(diphenylphosphino)ferrocene]dichloropalladium(II) (27 mg, 0.07 mmol), bis(pinacolato)diboron (225 mg, 0.89 mmol) and potassium acetate (218 mg, 2.22 mmol) and heated for another 18 hours at 90° C. The reaction mixture was allowed to cool to room temperature and filtered on a pad of arbocel. The pad was washed with EtOAc and MTBE. The filtrate was concentrated in vacuo to afford the title compound as a dark brown solid, which was used without further purification in the next step.

reactant | 3-Chloro-2-(1,1,1,3,3,3-hexafluoropropan-2-yloxy)-5-iodopyridine | 0.74 mmol, 300 mg | ClC=1C(=NC=C(C1)I)OC(C(F)(F)F)C(F)(F)F | C8H3ClF6INO
reactant | bis(pinacolato)diboron | 0.89 mmol, 225 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 2.22 mmol, 218 mg | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 0.89 mmol, 225 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 2.22 mmol, 218 mg | C(C)(=O)[O-].[K+]
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | 1,1′-Bis(diphenylphosphino)ferrocene | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | dichloropalladium(II) | 0.07 mmol, 27 mg | Cl[Pd]Cl
catalyst | dichloropalladium(II) | 0.07 mmol, 27 mg | Cl[Pd]Cl
product | 3-Chloro-2-(1,1,1,3,3,3-hexafluoropropan-2-yloxy)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine | ClC=1C(=NC=C(C1)B1OC(C(O1)(C)C)(C)C)OC(C(F)(F)F)C(F)(F)F | C14H15BClF6NO3
